US09120804B2
2-{4-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-propan-2-ol (“C61”)
2-(4-Bromophenyl)propan-2-ol and 8-(1-methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine are reacted under Buchwald Hartwig conditions as described in general procedure 2.

reactant | 2-(4-Bromophenyl)propan-2-ol | BrC1=CC=C(C=C1)C(C)(C)O | C9H11BrO
reactant | 8-(1-methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)N | C9H9N7
product | 2-{4-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-phenyl}-propan-2-ol | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)NC2=CC=C(C=C2)C(C)(C)O | C18H19N7O
